US04072664
Preparation of N,N'-bis(p-aminobenzoyl)ethylenediamine
In a 2 litre volume autoclave for high pressure, N,N'-bis(p-nitrobenzoyl)ethylenediamine (140 g; 0.39 mol), Raney nickel (5 g) and dimethylacetamide (700 ml) are charged, and the atmosphere in the reaction vessel is well replaced by hydrogen. Then, the contents are stirred at 70 to 100° C for about 3 hours while introducing hydrogen (90 kg/cm2) to effect hydrogenation of the nitro group. The reaction mixture is heated to dissolve the produced diamine, Raney nickel is removed off by filtration, and the filtrate is poured into water (5 liters). The resultant precipitate of the diamine is separated and dried to obtain crude crystals (108 g; yield, 93%). Recrystallization from dimethylacetamide (1.5 liters) affords white crystals melting at 293.5° to 295° C.

reactant | N,N'-bis(p-nitrobenzoyl)ethylenediamine | 0.39 mol, 140 g | [N+](=O)([O-])C1=CC=C(C(=O)NCCNC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C16H14N4O6
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 5 g | [Ni] | Ni
solvent | dimethylacetamide | 700 ml | CC(=O)N(C)C | C4H9NO
product | N,N'-bis(p-aminobenzoyl)ethylenediamine | NC1=CC=C(C(=O)NCCNC(C2=CC=C(C=C2)N)=O)C=C1 | C16H18N4O2
